US06605620B1
Synthesis of 4-[N-(4-Methoxyphenyl)-N-[3-(3,4,5-trimethoxypheny)benzoyl]amino]piperidine Hydrochloride
1-(tert-butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[3-(3,4,5-trimethoxypheny)benzoyl]amino]piperidine (416 mg) in ethyl acetate (5 mL) was added 4 M hydrogen chloride in ethyl acetate (5 mL). The mixture was stirred at room temperature for 4 hr, resulting precipitates were collected and washed with ethyl acetate on a funnel to give the title compound.

reactant | 1-(tert-butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[3-(3,4,5-trimethoxypheny)benzoyl]amino]piperidine | 416 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(C1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC=C(C=C1)OC | C33H40N2O7
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 4-[N-(4-Methoxyphenyl)-N-[3-(3,4,5-trimethoxypheny)benzoyl]amino]piperidine Hydrochloride | Cl.COC1=CC=C(C=C1)N(C(C1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)=O)C1CCNCC1 | InChI=1S/C28H32N2O5.ClH/c1-32-24-10-8-22(9-11-24)30(23-12-14-29-15-13-23)28(31)20-7-5-6-19(16-20)21-17-25(33-2)27(35-4)26(18-21)34-3;/h5-11,16-18,23,29H,12-15H2,1-4H3;1H
